US05194430
Step a: Ethyl 4-iodobutyrate
Mix ethyl 4-chlorobutyrate (80 g), acetone (400 mL) and sodium iodide (100 g). Reflux for 8 hours, cool and add methylene chloride (400 mL). Filter and evaporate the filtrate to a residue. Partition the residue between methylene chloride (200 mL) and water (200 mL). Separate the organic phase, dry (MgSO4) and evaporate to an oil. Purify by distillation to give the title compound (89 g); bp 64° C.@0.5 mm Hg.

reactant | ethyl 4-chlorobutyrate | 80 g | ClCCCC(=O)OCC | C6H11ClO2
reactant | acetone | 400 mL | CC(=O)C | C3H6O
reactant | sodium iodide | 100 g | [I-].[Na+]
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-iodobutyrate | 89 g | ICCCC(=O)OCC | C6H11IO2
